### ISSUE TITLE
Pantograph server crashes from recursion error before Lean

### ISSUE THREAD

**Issue by AG161** [stanford-centaur/PyPantograph#83]
I've been running some automated theorem proving tests with Pantograph, and while tactic errors can be excepted some errors are causing the Pantograph server object to crash, after which the proof states are not recoverable. It seems like the recursion depth tolerable by Pantograph is significantly lower than Lean's. Here's a MWE based on this [miniF2F repo](https://github.com/yangky11/miniF2F-lean4) (I added some print commands to Pantograph for debugging, they can be ignored):

```
>>> text = """
... lemma cbrt_one_eq_one (y : ℝ) (h₁ : y ^ 3 = 1) : y = 1 := by
...   sorry
... """
>>> server = Server(imports=['MiniF2F.Minif2fImport'], project_path="/home/agittis/proofsearch/miniF2F-lean4")
Running options.set
{"printDependentMVars": true}
>>> sorries = server.load_sorry(text)
Running frontend.process
{"file": "\nlemma cbrt_one_eq_one (y : ℝ) (h₁ : y ^ 3 = 1) : y = 1 := by\n  sorry\n", "invocations": false, "sorrys": true, "newConstants": false, "typeErrorsAsGoals": false}
>>> s1 = server.goal_tactic(sorries[0].goal_state, 0, "rw [← Real.rpow_one y] at h₁")
Running goal.tactic
{"stateId": 0, "goalId": 0, "tactic": "rw [← Real.rpow_one y] at h₁"}
>>> print(s1)
y : ℝ
h₁ : (y ^ 1) ^ 3 = 1
⊢ y = 1
>>> s2 = server.goal_tactic(s1.goal_state, 0, "set_option maxRecDepth 100 in simpa [← h₁] using h₁")Traceback (most recent call last):
  File "<stdin>", line 1, in <module>
AttributeError: 'GoalState' object has no attribute 'goal_state'
>>> s2 = server.goal_tactic(s1, 0, "set_option maxRecDepth 100 in simpa [← h₁] using h₁")
Running goal.tactic
{"stateId": 1, "goalId": 0, "tactic": "set_option maxRecDepth 100 in simpa [← h₁] using h₁"}
Traceback (most recent call last):
  File "<stdin>", line 1, in <module>
  File "/home/agittis/proofsearch/PyPantograph/pantograph/utils.py", line 16, in wrapper
    return asyncio.run(func(*args, **kwargs))
  File "/home/agittis/miniconda3/envs/intern2/lib/python3.10/asyncio/runners.py", line 44, in run
    return loop.run_until_complete(main)
  File "/home/agittis/miniconda3/envs/intern2/lib/python3.10/asyncio/base_events.py", line 649, in run_until_complete
    return future.result()
  File "/home/agittis/proofsearch/PyPantograph/pantograph/server.py", line 281, in goal_tactic_async
    raise TacticFailure(result)
pantograph.server.TacticFailure: {'tacticErrors': ["tactic 'simp' failed, nested error:\nmaximum recursion depth has been reached\nuse `set_option maxRecDepth <num>` to increase limit\nuse `set_option diagnostics true` to get diagnostic information"]}
>>> s2 = server.goal_tactic(s1, 0, "simpa [← h₁] using h₁")
Running goal.tactic
{"stateId": 1, "goalId": 0, "tactic": "simpa [← h₁] using h₁"}
Traceback (most recent call last):
  File "/home/agittis/proofsearch/PyPantograph/pantograph/server.py", line 189, in run_async
    obj = json.loads(line)
  File "/home/agittis/miniconda3/envs/intern2/lib/python3.10/json/__init__.py", line 346, in loads
    return _default_decoder.decode(s)
  File "/home/agittis/miniconda3/envs/intern2/lib/python3.10/json/decoder.py", line 337, in decode
    obj, end = self.raw_decode(s, idx=_w(s, 0).end())
  File "/home/agittis/miniconda3/envs/intern2/lib/python3.10/json/decoder.py", line 355, in raw_decode
    raise JSONDecodeError("Expecting value", s, err.value) from None
json.decoder.JSONDecodeError: Expecting value: line 2 column 1 (char 2)

The above exception was the direct cause of the following exception:

Traceback (most recent call last):
  File "<stdin>", line 1, in <module>
  File "/home/agittis/proofsearch/PyPantograph/pantograph/utils.py", line 16, in wrapper
    return asyncio.run(func(*args, **kwargs))
  File "/home/agittis/miniconda3/envs/intern2/lib/python3.10/asyncio/runners.py", line 44, in run
    return loop.run_until_complete(main)
  File "/home/agittis/miniconda3/envs/intern2/lib/python3.10/asyncio/base_events.py", line 649, in run_until_complete
    return future.result()
  File "/home/agittis/proofsearch/PyPantograph/pantograph/server.py", line 277, in goal_tactic_async
    result = await self.run_async('goal.tactic', args)
  File "/home/agittis/proofsearch/PyPantograph/pantograph/server.py", line 202, in run_async
    raise ServerError(f"Cannot decode: '{line}\n{remainder}'") from e
pantograph.server.ServerError: Cannot decode: '

Stack overflow detected. Aborting.
'
>>> s2 = server.goal_tactic(s1, 0, "simp")
Traceback (most recent call last):
  File "<stdin>", line 1, in <module>
  File "/home/agittis/proofsearch/PyPantograph/pantograph/utils.py", line 16, in wrapper
    return asyncio.run(func(*args, **kwargs))
  File "/home/agittis/miniconda3/envs/intern2/lib/python3.10/asyncio/runners.py", line 44, in run
    return loop.run_until_complete(main)
  File "/home/agittis/miniconda3/envs/intern2/lib/python3.10/asyncio/base_events.py", line 649, in run_until_complete
    return future.result()
  File "/home/agittis/proofsearch/PyPantograph/pantograph/server.py", line 277, in goal_tactic_async
    result = await self.run_async('goal.tactic', args)
  File "/home/agittis/proofsearch/PyPantograph/pantograph/server.py", line 181, in run_async
    assert self.proc, "Server not running."
AssertionError: Server not running.
>>> 

```

Here you can see when I use `set_option maxRecDepth 100 in simpa...` I get a TacticError which can be caught, while if I just run `simpa` the entire server crashes. Here is the corresponding `lake build` result on the same machine/Lean version without using `maxRecDepth`:

```
✖ [2533/2535] Building MiniF2F.Valid
trace: .> LEAN_PATH=././.lake/packages/Cli/.lake/build/lib:././.lake/packages/batteries/.lake/build/lib:././.lake/packages/Qq/.lake/build/lib:././.lake/packages/aesop/.lake/build/lib:././.lake/packages/proofwidgets/.lake/build/lib:././.lake/packages/importGraph/.lake/build/lib:././.lake/packages/LeanSearchClient/.lake/build/lib:././.lake/packages/plausible/.lake/build/lib:././.lake/packages/mathlib/.lake/build/lib:././.lake/build/lib LD_LIBRARY_PATH=/usr/local/lib:/usr/local/cuda/lib:/usr/local/cuda/lib64:/usr/local/lib:/usr/local/cuda/lib:/usr/local/cuda/lib64: /home/agittis/.elan/toolchains/leanprover--lean4---v4.15.0/bin/lean ././././MiniF2F/Valid.lean -R ./././. -o ././.lake/build/lib/MiniF2F/Valid.olean -i ././.lake/build/lib/MiniF2F/Valid.ilean -c ././.lake/build/ir/MiniF2F/Valid.c --json
error: ././././MiniF2F/Valid.lean:15:2: tactic 'simp' failed, nested error:
maximum recursion depth has been reached
use `set_option maxRecDepth <num>` to increase limit
use `set_option diagnostics true` to get diagnostic information
warning: ././././MiniF2F/Valid.lean:18:8: declaration uses 'sorry'
...
error: Lean exited with code 1
Some required builds logged failures:
- MiniF2F.Valid
error: build failed
```

Whereas if I try to build with the recursion depth raised to 10000 (I believe the default is 512):

```
✖ [2533/2535] Building MiniF2F.Valid
trace: .> LEAN_PATH=././.lake/packages/Cli/.lake/build/lib:././.lake/packages/batteries/.lake/build/lib:././.lake/packages/Qq/.lake/build/lib:././.lake/packages/aesop/.lake/build/lib:././.lake/packages/proofwidgets/.lake/build/lib:././.lake/packages/importGraph/.lake/build/lib:././.lake/packages/LeanSearchClient/.lake/build/lib:././.lake/packages/plausible/.lake/build/lib:././.lake/packages/mathlib/.lake/build/lib:././.lake/build/lib LD_LIBRARY_PATH=/usr/local/lib:/usr/local/cuda/lib:/usr/local/cuda/lib64:/usr/local/lib:/usr/local/cuda/lib:/usr/local/cuda/lib64: /home/agittis/.elan/toolchains/leanprover--lean4---v4.15.0/bin/lean ././././MiniF2F/Valid.lean -R ./././. -o ././.lake/build/lib/MiniF2F/Valid.olean -i ././.lake/build/lib/MiniF2F/Valid.ilean -c ././.lake/build/ir/MiniF2F/Valid.c --json
info: stderr:
Stack overflow detected. Aborting.
error: Lean exited with code 134
Some required builds logged failures:
- MiniF2F.Valid
error: build failed
```

Text of the Lean theorem:

```lean
lemma cbrt_one_eq_one (y : ℝ) (h₁ : y ^ 3 = 1) : y = 1 := by
  rw [← Real.rpow_one y] at h₁
  -- set_option maxRecDepth 10000 in simpa [← h₁] using h₁
  simpa [← h₁] using h₁
  sorry
```

VS Code has a similar behavior, where I just get a failed tactic message with `simpa...`, and the server itself will only crash if I significantly raise the max recursion depth. In other words, a tactic which doesn't crash Lean in VS Code or in `lake build` will crash the Pantograph server. I suppose something must be happening that causes it to crash much earlier in Pantograph. I'm not sure how easy it would be to fix, but one workaround would be allowing `set_options maxRecDepth <num>` to work in `load_sorry` when placed above the text of a theorem, so the threshold could always be set to something low enough that the Pantograph server will not crash.

**Comment by lenianiva** [comment]
Set recursion depth by feeding `maxRecDepth=...` to the server object. Vide https://github.com/stanford-centaur/PyPantograph/blob/f67756f2cde95a807442a423029338e01bdc3769/pantograph/server.py#L59

We had a couple of OOM errors with people not being careful about recursion depth and stack sizes and these instances caused the OS to crash instead of Lean itself, so the cautious decision is to limit it by default.
